US04725599
7-Bromo-6-chlorothieno[3,2-d]pyrimidin-4(3H)-one
A solution of 1.12 g (0.006 mole) of 6-chlorothieno[3,2-d]pyrimidin-4(3H)-one and 15 ml of acetic acid at 80° C. was treated with 2.88 g (0.92 ml, 0.018 mole) of bromine. Heating was continued for 2.5 hours during which time solids precipitated. After cooling to room temperature, the mixture was filtered and washed with acetic acid, water and acetone. There was obtained 0.70 g (44%) of the title compound: m.p. above 280° C.; mass spectrum 264 (molecular ion and parent peak with expected isotope pattern), 239 (-27), 186 (some starting material) among others; 1H-nmr (trifluoroacetic acid) delta 7.5 ppm (starting material, s 0.1H), 9.3 (s, 1.0H). The nmr spectrum indicates that the reaction product is about 90% of the desired product; the remainder is starting material. This material is sufficiently pure for use in further reactions.

reactant | 6-chlorothieno[3,2-d]pyrimidin-4(3H)-one | 0.006 mole, 1.12 g | ClC1=CC=2N=CNC(C2S1)=O | C6H3ClN2OS
reactant | bromine | 0.018 mole, 0.92 ml, 2.88 g | BrBr | Br2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 7-Bromo-6-chlorothieno[3,2-d]pyrimidin-4(3H)-one | 0.70 g, 44% | BrC1=C(SC2=C1N=CNC2=O)Cl | C6H2BrClN2OS
